US06623729B2
3 g of mPEG-PLGA obtained above and 80 mg of p-nitrofluoroformate, a linker compound, were dissolved in 30 ml of methylene chloride. Then, 63 mg of pyridine was added to the solution, and reacted for 3 hours under a stream of nitrogen gas. And then, reaction product was precipitated by adding cold diethylether, filtered on a filter paper and dried under a reduced pressure. After dissolving 0.25 g of dried reaction product in 7.5 ml of dimethylformamide, 10 mg of doxorubicin-HCl(Sigma Chem. Co., U.S.A.) and 6.75 mg of triethylamine were added and reacted at room temperature for 24 hours under a nitrogen gas to obtain doxorubicin-conjugated micelle monomer(see: FIG. 2). The said micelle monomers were dispersed in 300 ml of triple distilled water to form doxorubicin-conjugated sustained release micelles, and free doxorubicin was removed by dialyzing the mixture 5 times against 3 L of triple distilled water each time. Doxorubicin-conjugated sustained release micelles were pelletized by ultracentrifugation, and freeze-dried after removing supernatant, and then, stored in the form of doxorubicin-conjugated micelle monomer.

reactant | pyridine | 63 mg | N1=CC=CC=C1 | C5H5N
reactant | doxorubicin HCl | 10 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
reactant | triethylamine | 6.75 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
